US07087626B2
5-[4-(2-Pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-yloxymethyl]-pyrrolidin-2-one
A solution of (R)-(−)-5-(hydroxymethyl)-2-pyrrolidinone (315 mg, 2.74 mmol) in N,N-dimethylformamide (3 mL) is treated with methansulfonyl chloride (320 mg, 2.74 mmol) and heated at 60° C. for 5 h. The reaction mixture is diluted with N,N-dimethylformamide (1 mL) and 4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-ol (200 mg, 0.91 mmol) added. The mixture is stirred at 60° C. for additional 16 h, cooled to room temperature, and partitioned between ethyl acetate and water. The organic portion is washed three times with water, once with brine, dried (sodium sulfate), filtered and concentrated in vacuo. The crude residue is chromatographed on SiO2 (89% dichloromethane 10% methanol 1% concentrated ammonium hydroxide) to yield the title compound, 32 mg (8%), as a light red solid.

reactant | (R)-(−)-5-(hydroxymethyl)-2-pyrrolidinone | 2.74 mmol, 315 mg | OC[C@H]1CCC(N1)=O | C5H9NO2
reactant | methansulfonyl chloride | 2.74 mmol, 320 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-ol | 0.91 mmol, 200 mg | N1=C(C=CC=C1)C=1C(=C2N(N1)CCC2)C2=CC=NC1=CC(=CC=C21)O | C20H16N4O
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 5-[4-(2-Pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-yloxymethyl]-pyrrolidin-2-one | N1=C(C=CC=C1)C=1C(=C2N(N1)CCC2)C2=CC=NC1=CC(=CC=C21)OCC2CCC(N2)=O | C25H23N5O2
